* C:\Users\zhdds\Documents\LTspice\Draft7.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N001 0 5
V2 Vin 0 PULSE(0 5 0 0.01ms 0.01ms 0.5ms 1ms)
C1 Vout 0 {C}
M1 Vout Vin 0 NC_01 NMOS l=0.25u w={nmosw}
M2 Vout Vin N001 NC_02 PMOS l=0.25u w={pmosw}
.model NMOS NMOS
.model PMOS PMOS

.tran 0 {MaxTime} 0
.backanno
.end
